US07696200B2
Step 7 and 8. A solution of 4-[(3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl)-amino]-benzoic acid ethyl ester (27 mg, 0.085 mmol) in pyridine (0.4 mL) was treated with a solution of 3-fluoro-benzenesulfonyl chloride (25 mg, 0.13 mmol) in pyridine (0.2 mL). The resulting mixture was stirred at room temperature for 18 hours. The pyridine was evaporated, and the residual crude 4-{[4-(3-fluoro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid ethyl ester was dissolved in ethanol (0.6 mL) and treated with KOH 3N (0.15 mL). The resulting mixture was stirred at room temperature overnight. The mixture was acidified with HCl 3N and evaporated. The residue was purified by preparative HPLC (ZORBAX Eclipse XDB-C18, 21.2×50 mm, 5 μm, gradient acetonitrile/water +0.1% formic acid). 4-{[4-(3-Fluoro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid (17.1 mg, 44%) was obtained as an off-white solid, MS (ISP): m/e=455.0 (M−H).

reactant | 4-[(3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl)-amino]-benzoic acid ethyl ester | 0.085 mmol, 27 mg | C(C)OC(C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(NCCO2)C1)=O | C18H18N2O4
reactant | 3-fluoro-benzenesulfonyl chloride | 0.13 mmol, 25 mg | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | pyridine | 0.4 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
product | 4-{[4-(3-Fluoro-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid | 17.1 mg, 44% | FC=1C=C(C=CC1)S(=O)(=O)N1CCOC2=C1C=C(C=C2)C(=O)NC2=CC=C(C(=O)O)C=C2 | C22H17FN2O6S
